US05891901
3-(6-hydroxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione was prepared by treating Benzenesulfonic acid 1-methyl-3-[4-(1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-6-yl ester (141 mg 0.28 mm) with 4N NaOH (0.5 mL, 2 mmol) and CH3OH (4 mL) and heating to reflux temperature for 6 hours. After cooling to room temperature, the reaction mixture was diluted with H2O, acidified with 2N HCl, and extracted with EtOAc. The organic phase was washed with saturated NaCl solution, dried over MgSO4, filtered and evaporated to afford, after purification by flash column chromatography 3-(6-hydroxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (15 mg); mp=279°-282° C.

reactant | Benzenesulfonic acid 1-methyl-3-[4-(1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-6-yl ester | 141 mg | CN1C=C(C2=CC=C(C=C12)OS(=O)(=O)C1=CC=CC=C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C28H21N3O5S
reactant | NaOH | 2 mmol, 4N, 0.5 mL | [OH-].[Na+]
reactant | CH3OH | 4 mL | CO | CH4O
reactant | HCl | 2N | Cl | ClH
solvent | H2O | O | H2O
product | 3-(6-hydroxy-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | OC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H17N3O3
